2124-09-12 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIAC ARREST - At [**2124-9-11**] 01:40 PM
   pt given CPR, atropine, epi, intubated, 2 units blood
 MULTI LUMEN - START [**2124-9-11**] 01:45 PM
 INVASIVE VENTILATION - START [**2124-9-11**] 02:00 PM
 ARTERIAL LINE - START [**2124-9-11**] 02:47 PM
 TRANSTHORACIC ECHO - At [**2124-9-11**] 04:36 PM
   Transfused 4 units PRBC last 24 hours.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-12**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 57 (50 - 102) bpm
   BP: 123/61(82) {107/49(68) - 132/66(91)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  2,820 mL
                                                                    479 mL
   PO:
           TF:
   IVF:
                                                                  1,369 mL
                                                                    199 mL
   Blood products:
                                                                  1,401 mL
                                                                    280 mL
   Total out:
                                                                    210 mL
                                                                    110 mL
   Urine:
                                                                    210 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,610 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 210 (210 - 765) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/36/223/20/-2
   Ve: 4.6 L/min
   PaO2 / FiO2: 446
   Physical Examination
   GENERAL: elderly causasian male, pale, intubated, sedated
   HEENT: NC/AT. Sclera anicteric. Conjunctiva pale. Dry MM. PERRLA.
   NECK: Supple with no visible JVD
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3
   or S4.
   LUNGS: Coarse vented breath sounds equal bilaterally, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, mildy distended, non-tender. hypoactive bowel sounds. ?
   LLQ abd pain
   EXTREMITIES: No c/c/e. R fem and art line in place
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: Responds, opens eyes to voice, following commands, MAE. Slightly
   decreased strength RUE with grip
   Labs / Radiology
   236 K/uL
   9.3 g/dL
   61 mg/dL
   3.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   83 mg/dL
   109 mEq/L
   140 mEq/L
   26.5 %
   7.9 K/uL
        [image002.jpg]      CXR:Enlarged cardiac silhouette. No effusions.
   Echo: LVEF overall depressed 20%, Mild 1+ AR, Mod 2+ MR, Mod 2+ TR
                             [**2124-9-11**]  01:50 PM
                             [**2124-9-11**]  01:52 PM
                             [**2124-9-11**]  02:01 PM
                             [**2124-9-11**]  02:23 PM
                             [**2124-9-11**]  04:08 PM
                             [**2124-9-11**]  04:30 PM
                             [**2124-9-11**]  08:21 PM
                             [**2124-9-11**]  08:36 PM
                             [**2124-9-12**]  03:05 AM
                             [**2124-9-12**]  03:19 AM
   WBC
   9.0
   8.2
   8.8
   7.9
   Hct
   18.8
   21.4
   22.3
   26.5
   Plt
   [**Telephone/Fax (3) 1272**]36
   Cr
   3.2
   3.1
   3.4
   3.3
   TropT
   0.44
   0.58
   0.78
   TCO2
   15
   19
   15
   20
   22
   22
   Glucose
   [**Telephone/Fax (3) 1273**]1
   Other labs: PT / PTT / INR:16.7/28.0/1.5, CK / CKMB /
   Troponin-T:87/11/0.78, ALT / AST:57/54, Alk Phos / T Bili:149/0.6,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:310 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL    Trop 0.42->0.44 ->0.58-> 0.78
   Assessment and Plan
   This is a [**Age over 90 **] yo male with extensive cardiac disease including CAD s/p
   MI and CABG, PE on coumadin, who presents with lethargy and black
   stools, found to have a GI bleed, who is now s/p cardiac arrest.
   .
   # CAD s/p Cardiac Arrest: Extensive previous cardiac history s/p CABG.
   His EKG on this admission demonstrated changes c/w ischemia, most
   likely due to demand from GI bleeding. Trop-T was elevated in the
   setting of acute on chronic renal failure, but MB-index was positive,
   again likely due to demand ischemia. This could have triggered
   myocardial infarction and potentially his cardiac arrest. Less likely
   to be ACS/unstable plaque rupture
   -- no signs of cardiogenic shock
   -- echo to eval LVEF-> depressed
   -- defib pads in place
   -- trend biomarkers
   -- cardiac monitoring
   -- continue plavix and low-dose carvedilol (held [**1-15**] brady) in peri-MI
   setting, increase statin to 80mg
   -- hold coumadin for now, would prefer not to anticoagulate given GI
   bleeding leading to demand ischemia.
   -- no ASA given allergy
   .
   # GI bleed: Follow HCT. Will transfuse, recheck after transfusion
   -- GI aware, will follow
   -- transfuse to HCT of 30 given CAD, recent cardiac arrest
   -  HCT trending up
   -- 2 large bore IVs
   -- continue IV PPI gtt
   -- hold coumadin as above
   .
   # Respiratory Failure
   -- wean O2 as tolerated, check ABGs prn. Most recent ABG this am during
   rounds c/w hypoventilation on MMV and pt had episodes of apnea
   overnight. Pressure support increased from 10 to 15. Will repeat ABG
   once stabilized on these settings to re eval
   -- fentanyl/versed gtts to sedation
   -- VAP ppx, HOB elevation
   -- no e/o PTX on CXR following code
   - Increase pressure support to 15
   -- wean sedation as tolerate
   .
   # Chronic systolic heart failure: Recent EF of 35% now 20%. Currently
   CXR not c/w worsening CHF but pt
s respiratory pattern c/w some CHF and
   is overall 2.5L positive this am so likely fluid overloaded and will
   need buffing of respiratory status prior to extubation.
   --  care with IVF, blood products
   -- Will give lasix 40 IV x 1 to assess response, change in resp status
   -- continue BB with afterload reduction (carvedilol, although held for
   brady)
   .
   # A on chronic RF - Baseline Cr has been 2.2-2.5 in early [**Month (only) **].
   Likely prerenal in etiology given recent GIB. Concern for ischemic ATN
   in setting of cardiac arrest. Stabilized since admission.
   -- volume resuscitation as above
   -- F/U urine lytes, osms, eo's
   -- renally dose meds
   -- trend Cr
   .
   # Lactic Acidosis - likely from ischemia [**1-15**] cardiac arrest, improving
   -- trend lactate, improving with volume resuscitation
   .
   # DM - last A1c was 6.1%
   -- fixed and SSI, FSG qid
   .
   # h/o PE: INR was therapeutic in the ED, but pt was reversed with FFP
   in setting of GI bleed.
   -- would hold anticoagulation given GIB possibly causing demand
   ischemia, MI for now but will consider retart tomorrow given recent h/o
   PE. If HCT stable, will restart
   .
   # s/p Hip fracture:
   -- previous hardware survey appears intact
   -- pain control
   .
   # ? R hand weakness: Will follow. Upon later exam, pt more awake with
   equal strength. Consider imaging if focal neuro findings.
   .
   # HTN
   -- hold antihypertensives execpt BB
   .
   # Access
   -- PIV, R femoral TLC. Will DC R fem line after receives blood products
   if can obtain another PIV
   -- R radial arterial line
   .
   # FEN
   -- npo for now. Will start TF if will not extubate today
   -- replete lytes prn
   .
   # PPx
   -- IV PPI gtt
   - SC heparin
   -- no bowel regimen needed given GIB
   .
   # Code - Full code confirmed with family, but if pt deteriorates would
   not want life to be prolonged by life support
   .
   # Dispo
   -- ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-9-11**] 01:30 PM
   Multi Lumen - [**2124-9-11**] 01:45 PM
   Arterial Line - [**2124-9-11**] 02:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-12 09:50:00 Physician Attending Progress Note
Chief Complaint: arrest, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed and cardiac arrest
   24 Hour Events:
 CARDIAC ARREST - At [**2124-9-11**] 01:40 PM
   pt given CPR, atropine, epi, intubated, 2 units blood
 MULTI LUMEN - START [**2124-9-11**] 01:45 PM
 EKG - At [**2124-9-11**] 01:50 PM
 INVASIVE VENTILATION - START [**2124-9-11**] 02:00 PM
 ARTERIAL LINE - START [**2124-9-11**] 02:47 PM
 TRANSTHORACIC ECHO - At [**2124-9-11**] 04:36 PM
 EKG - At [**2124-9-11**] 09:02 PM
   LVEF 20% and RV dysfunction
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 35 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2124-9-12**] 08:55 AM
   Other medications:
   simvastatin, Plavix, CHlorhex,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-12**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 64 (50 - 102) bpm
   BP: 141/60(89) {107/49(68) - 144/68(94)} mmHg
   RR: 13 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,820 mL
                                                                    583 mL
   PO:
           TF:
   IVF:
                                                                  1,369 mL
                                                                    278 mL
   Blood products:
                                                                  1,401 mL
                                                                    280 mL
   Total out:
                                                                    210 mL
                                                                    225 mL
   Urine:
                                                                    210 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,610 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 898 (210 - 898) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.38/36/223/20/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 446
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: trace edema
   Skin:  Warm
   Neurologic: Follows simple commands
   Labs / Radiology
   9.3 g/dL
   236 K/uL
   61 mg/dL
   3.3 mg/dL
   20 mEq/L
   4.4 mEq/L
   83 mg/dL
   109 mEq/L
   140 mEq/L
   26.5 %
   7.9 K/uL
        [image002.jpg]
                             [**2124-9-11**]  01:50 PM
                             [**2124-9-11**]  01:52 PM
                             [**2124-9-11**]  02:01 PM
                             [**2124-9-11**]  02:23 PM
                             [**2124-9-11**]  04:08 PM
                             [**2124-9-11**]  04:30 PM
                             [**2124-9-11**]  08:21 PM
                             [**2124-9-11**]  08:36 PM
                             [**2124-9-12**]  03:05 AM
                             [**2124-9-12**]  03:19 AM
   WBC
   9.0
   8.2
   8.8
   7.9
   Hct
   18.8
   21.4
   22.3
   26.5
   Plt
   [**Telephone/Fax (3) 1272**]36
   Cr
   3.2
   3.1
   3.4
   3.3
   TropT
   0.44
   0.58
   0.78
   TCO2
   15
   19
   15
   20
   22
   22
   Glucose
   [**Telephone/Fax (3) 1273**]1
   Other labs: PT / PTT / INR:16.7/28.0/1.5, CK / CKMB /
   Troponin-T:87/11/0.78, ALT / AST:57/54, Alk Phos / T Bili:149/0.6,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.5 g/dL, LDH:310 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.9 mg/dL
   CXR ETT 3-4 cm above carina, no eff or significant
   Assessment and Plan
   1.       Cardiac Arrest: likely due to demand ischemic on a background
   of ischemic heart failure. Currently echo shows bivent dysfunction and
   he is volume overloaded but hemodynamics stable. Plavix, Statin, try
   low dose lasix, goal 500 to 1000 cc negative
   2.       Hypoxemic Resp Failure: in setting of code and decompensated
   systolic function, - now on [**9-17**]
 try [**4-17**] and assess response esp
   after Lasix
   3.       GI bleed: HCT 26.5 after 4 units- give 2 more units with Lasix
   , good access, IV PPI, Gi aware holding off on scope unless fulminant
   bleeding
   4.       ARF: chronic near baseline but may evolve after arrest, follow
   UOP and CR, renally dose all meds
   ICU Care
   Nutrition: tf this afternoon if not extubatable
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-9-11**] 01:30 PM
   Multi Lumen - [**2124-9-11**] 01:45 PM
 d/c get 3^rd PIV
   Arterial Line - [**2124-9-11**] 02:47 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: hob, chlorhex
   Communication:  with wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45

2124-09-13 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2124-9-12**] 08:18 PM
   Pt placed on Rate of 12 from 4 , kept on 5 of PEEP
   40 IV Laxis x1
   Good UOP overnight with Negative 1L
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2124-9-12**] 08:55 AM
   Furosemide (Lasix) - [**2124-9-12**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-13**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-13**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 50 (47 - 69) bpm
   BP: 150/51(84) {129/51(79) - 160/68(99)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,357 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    165 mL
   Blood products:
                                                                    554 mL
   Total out:
                                                                  2,505 mL
                                                                    745 mL
   Urine:
                                                                  2,505 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,148 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 627 (627 - 898) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.34/38/197/21/-4
   Ve: 6.9 L/min
   PaO2 / FiO2: 394
   Physical Examination
   GENERAL: elderly causasian male, pale, intubated, sedated
   HEENT: NC/AT. Sclera anicteric. Conjunctiva pale. Dry MM. PERRLA.
   NECK: Supple with no visible JVD
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3
   or S4.
   LUNGS: Coarse vented breath sounds equal bilaterally, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, mildy distended, non-tender. hypoactive bowel sounds. ?
   LLQ abd pain
   EXTREMITIES: No c/c/e. R fem and art line in place
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   NEURO: Responds, opens eyes to voice, following commands, MAE. Slightly
   decreased strength RUE with grip
   Labs / Radiology
   243 K/uL
   10.4 g/dL
   68 mg/dL
   3.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   83 mg/dL
   109 mEq/L
   143 mEq/L
   29.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-9-12**]  03:05 AM
                             [**2124-9-12**]  03:19 AM
                             [**2124-9-12**]  09:37 AM
                             [**2124-9-12**]  11:55 AM
                             [**2124-9-12**]  12:10 PM
                             [**2124-9-12**]  03:05 PM
                             [**2124-9-12**]  05:06 PM
                             [**2124-9-12**]  06:37 PM
                             [**2124-9-13**]  03:15 AM
                             [**2124-9-13**]  03:40 AM
   WBC
   7.9
   9.5
   Hct
   26.5
   29.5
   31.5
   29.6
   Plt
   236
   243
   Cr
   3.3
   3.7
   TropT
   0.78
   0.94
   TCO2
   22
   23
   22
   22
   21
   21
   Glucose
   61
   68
   Other labs: PT / PTT / INR:15.2/31.2/1.3, CK / CKMB /
   Troponin-T:111/9/0.94, ALT / AST:44/35, Alk Phos / T Bili:137/0.7,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] yo male with extensive cardiac disease including CAD s/p
   MI and CABG, PE on coumadin, who presents with lethargy and black
   stools, found to have a GI bleed, who is now s/p cardiac arrest.
   .
   # CAD s/p Cardiac Arrest: Extensive previous cardiac history s/p CABG.
   His EKG on this admission demonstrated changes c/w ischemia, most
   likely due to demand from GI bleeding. Trop-T was elevated in the
   setting of acute on chronic renal failure, but MB-index was positive,
   again likely due to demand ischemia. This could have triggered
   myocardial infarction and potentially his cardiac arrest. Less likely
   to be ACS/unstable plaque rupture
   -- no signs of cardiogenic shock
   -- echo to eval LVEF-> depressed
   -- defib pads in place
   -- trend biomarkers
   -- cardiac monitoring
   -- continue plavix and low-dose carvedilol (held [**1-15**] brady) in peri-MI
   setting, increase statin to 80mg
   -- hold coumadin for now, would prefer not to anticoagulate given GI
   bleeding leading to demand ischemia.
   -- no ASA given allergy
   .
   # GI bleed: Follow HCT. Will transfuse, recheck after transfusion
   -- GI aware, will follow
   -- transfuse to HCT of 30 given CAD, recent cardiac arrest
   -  HCT trending up
   -- 2 large bore IVs
   -- continue IV PPI gtt
   -- hold coumadin as above
   .
   # Respiratory Failure
   -- wean O2 as tolerated, check ABGs prn. Most recent ABG this am during
   rounds c/w hypoventilation on MMV and pt had episodes of apnea
   overnight. Pressure support increased from 10 to 15. Will repeat ABG
   once stabilized on these settings to re eval
   -- fentanyl/versed gtts to sedation
   -- VAP ppx, HOB elevation
   -- no e/o PTX on CXR following code
   - Increase pressure support to 15
   -- wean sedation as tolerate
   .
   # Chronic systolic heart failure: Recent EF of 35% now 20%. Currently
   CXR not c/w worsening CHF but pt
s respiratory pattern c/w some CHF and
   is overall 2.5L positive this am so likely fluid overloaded and will
   need buffing of respiratory status prior to extubation.
   --  care with IVF, blood products
   -- Will give lasix 40 IV x 1 to assess response, change in resp status
   -- continue BB with afterload reduction (carvedilol, although held for
   brady)
   .
   # A on chronic RF - Baseline Cr has been 2.2-2.5 in early [**Month (only) **].
   Likely prerenal in etiology given recent GIB. Concern for ischemic ATN
   in setting of cardiac arrest. Stabilized since admission.
   -- volume resuscitation as above
   -- F/U urine lytes, osms, eo's
   -- renally dose meds
   -- trend Cr
   .
   # Lactic Acidosis - likely from ischemia [**1-15**] cardiac arrest, improving
   -- trend lactate, improving with volume resuscitation
   .
   # DM - last A1c was 6.1%
   -- fixed and SSI, FSG qid
   .
   # h/o PE: INR was therapeutic in the ED, but pt was reversed with FFP
   in setting of GI bleed.
   -- would hold anticoagulation given GIB possibly causing demand
   ischemia, MI for now but will consider retart tomorrow given recent h/o
   PE. If HCT stable, will restart
   .
   # s/p Hip fracture:
   -- previous hardware survey appears intact
   -- pain control
   .
   # ? R hand weakness: Will follow. Upon later exam, pt more awake with
   equal strength. Consider imaging if focal neuro findings.
   .
   # HTN
   -- hold antihypertensives execpt BB
   .
   # Access
   -- PIV, R femoral TLC. Will DC R fem line after receives blood products
   if can obtain another PIV
   -- R radial arterial line
   .
   # FEN
   -- npo for now. Will start TF if will not extubate today
   -- replete lytes prn
   .
   # PPx
   -- IV PPI gtt
   - SC heparin
   -- no bowel regimen needed given GIB
   .
   # Code - Full code confirmed with family, but if pt deteriorates would
   not want life to be prolonged by life support
   .
   # Dispo
   -- ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-11**] 02:47 PM
   18 Gauge - [**2124-9-12**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-13 12:36:00 Physician Attending Progress Note
Chief Complaint: gi bleed cardiac arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    [**Age over 90 **] yr old with GU bleed then cardiac arrest
   24 Hour Events:
 MULTI LUMEN - STOP [**2124-9-12**] 08:18 PM
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-12**] 06:07 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-13**] 08:00 AM
   Other medications:
   IV PPI
   Plavix
   Tylenol
   Sc hep
   Chlorhex
   No insulin or dextrose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-13**] 12:21 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 71 (47 - 71) bpm
   BP: 164/68(103) {129/51(79) - 164/68(103)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,357 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    286 mL
   Blood products:
                                                                    554 mL
   Total out:
                                                                  2,505 mL
                                                                  1,180 mL
   Urine:
                                                                  2,505 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,148 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 258 (258 - 679) mL
   PS : 8 cmH2O
   RR (Set): 9
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.31/39/126/21/-6
   Ve: 8.2 L/min
   PaO2 / FiO2: 252
   Physical Examination
   Gen: lying in bed, intubated alert follows commands
   CV: RR
   Chest CTA ant
   Abd: mild LLQ tenderness
   Ext: no edema
   Neuro: intact
   Labs / Radiology
   10.4 g/dL
   243 K/uL
   68 mg/dL
   3.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   83 mg/dL
   109 mEq/L
   143 mEq/L
   29.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-9-12**]  09:37 AM
                             [**2124-9-12**]  11:55 AM
                             [**2124-9-12**]  12:10 PM
                             [**2124-9-12**]  03:05 PM
                             [**2124-9-12**]  05:06 PM
                             [**2124-9-12**]  06:37 PM
                             [**2124-9-13**]  03:15 AM
                             [**2124-9-13**]  03:40 AM
                             [**2124-9-13**]  09:31 AM
                             [**2124-9-13**]  11:07 AM
   WBC
   9.5
   Hct
   29.5
   31.5
   29.6
   Plt
   243
   Cr
   3.7
   TropT
   0.94
   TCO2
   23
   22
   22
   21
   21
   23
   21
   Glucose
   68
   Other labs: PT / PTT / INR:15.2/31.2/1.3, CK / CKMB /
   Troponin-T:111/9/0.94, ALT / AST:44/35, Alk Phos / T Bili:137/0.7,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   1.       Cardiac Arrest: likely due to demand ischemic on a background
   of ischemic heart failure. Currently echo shows bivent dysfunction
   hemodynamics stable. Plavix, Statin, esmolol drip peri extubation. Will
   restart bblocker if tolerates extubation.
   2.       Hypoxemic Resp Failure: in setting of code and decompensated
   systolic function, aggressive diuresis and now will try SBT and
   extubate with good rate pressure product control
   3.       GI bleed: stable HCT 29.1 after 5 units good access, IV PPI,
   Gi aware holding off on scope unless fulminant bleeding
   4.            ARF:slight bump with diuresis- will run even and trend ,
   renally dose all meds
   5.            Remianing issues as per housstaff notes
   ICU Care
   Nutrition: NPO for possible extubation
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-11**] 02:47 PM
   18 Gauge - [**2124-9-12**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: hob, chlorhex
   Communication: pt and wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-09-14 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated- successfully.
   CHEST PAIN - At [**2124-9-13**] 11:00 PM
   pt c/o CP- called HO- EKG done, no change- given MS 1.0 mg and 2
   tylenol ( s/p CPR). This am, reports chest pain not new complaint and
   he has had for a couple weeks now. Carvedilol, Isosorbide mononitrate
   restarted.
   ASA anaphylaxis confirmed w/ pt. ASA continued to be held.
   Started on PO diet, tolerated well.
   Per Cards, would resume lasix and aldactone pending improvement renal
   function.
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-13**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-9-13**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 70 (49 - 80) bpm
   BP: 148/81(109) {107/51(83) - 174/83(133)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    838 mL
                  PO:
                                                                    420 mL
                  TF:
   IVF:
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    360 mL
   Urine:
                                                                  1,815 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 552 (258 - 679) mL
   PS : 5 cmH2O
   RR (Set): 9
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.33/39/82.[**Numeric Identifier 253**]//-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GENERAL: elderly causasian male, pale, intubated, sedated, awake,
   alert, reported
   HEENT: NC/AT. Sclera anicteric. Conjunctiva pale. Dry MM. PERRLA.
   NECK: Supple with no visible JVD
   CARDIAC: RR, normal S1, S2. No m/r/g.
   LUNGS: Coarse vented breath sounds equal bilaterally, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, mild/moderate TTP LLQ and LUQ, no rebound or guarding.
   EXTREMITIES: No c/c/e. R art line in place DP2+ bilaterally
   NEURO: Responds, opens eyes to voice, following commands. Strength 5/5
   upper extremities, [**4-17**] RLE [**3-18**] LLE.
   Labs / Radiology
   243 K/uL
   10.4 g/dL
   68 mg/dL
   3.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   83 mg/dL
   109 mEq/L
   143 mEq/L
   32.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2124-9-12**]  03:05 PM
                             [**2124-9-12**]  05:06 PM
                             [**2124-9-12**]  06:37 PM
                             [**2124-9-13**]  03:15 AM
                             [**2124-9-13**]  03:40 AM
                             [**2124-9-13**]  09:31 AM
                             [**2124-9-13**]  11:07 AM
                             [**2124-9-13**]  01:32 PM
                             [**2124-9-13**]  04:25 PM
                             [**2124-9-13**]  04:40 PM
   WBC
   9.5
   Hct
   31.5
   29.6
   32.3
   Plt
   243
   Cr
   3.7
   3.6
   TropT
   1.02
   TCO2
   22
   21
   21
   23
   21
   21
   21
   Glucose
   68
   Other labs: PT / PTT / INR:15.2/31.2/1.3, CK / CKMB /
   Troponin-T:81/9/1.02, ALT / AST:44/35, Alk Phos / T Bili:137/0.7,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:287 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] yo male with extensive cardiac disease including CAD s/p
   MI and CABG, PE on coumadin, who presents with lethargy and black
   stools, found to have a GI bleed, who is now s/p cardiac arrest.
   .
   # CAD s/p Cardiac Arrest: Extensive previous cardiac history s/p CABG.
   His EKG on this admission demonstrated changes c/w ischemia, most
   likely due to demand from GI bleeding. Trop-T was elevated in the
   setting of acute on chronic renal failure, but MB-index was positive,
   again likely due to demand ischemia. This could have triggered
   myocardial infarction and potentially his cardiac arrest. Less likely
   to be ACS/unstable plaque rupture
   -- no signs of cardiogenic shock
   -- echo immediately after arrest showed  decreased LVEF to 20%, from
   30-35%. Will re-ECHO to eval if improved.
   -- Consult cardiology for recs
   -- will continue to trend biomarkers
   -- cardiac monitoring
   -- continue plavix and statin at 80mg
   -- continue to hold coumadin for now, given risk of GI bleeding and
   recurrent demand ischemia.
   -- ASA held given reported anaphylactic allergy, will re-assess when pt
   extubated.
   -- hypertensive today, but not tachycardic, will start esmolol drip to
   reduce BP prior to extubation.
   .
   # GI bleed: HCT stable after transfusions, totaling 5uints pRBCs.
   -- GI aware, will follow
   -- transfuse to HCT of 30 given CAD, recent cardiac arrest
   -  HCT trending up
   -- 2 large bore IVs
   -- change  IV PPI gtt, to [**Hospital1 **] PPI
   -- hold coumadin as above
   .
   # Respiratory Failure: pt satting well on pressure support of 15/5
   overnight, reduced to [**11-17**] and then [**7-18**] during morning. Breathing
   well.  Sedation off in the AM.
   -- VAP ppx, HOB elevation
   -- continue to wean off vent during morning
   -- SBTs in afternoon, repeat ABG and lactate
   -- Extubate in PM if improving
   .
   # Chronic systolic heart failure: Recent EF of 35% now 20%. Diuresed
   -1.5 L yesterday in response to lasix 40mg IV x1. CXR continues to look
   good and no evidence of CHF on exam, though Cr increased.
   --  will attempt to keep fluid balance even today.
   -- esmolol drip as above
   .
   # A on chronic RF - Baseline Cr has been 2.2-2.5 in early [**Month (only) **].
   Likely prerenal in etiology given recent GIB. Concern for ischemic ATN
   in setting of cardiac arrest. Increased slightly overnight, possibly
   from diuresis, but CHF w/ EF of 20% more pressing concern.
   -- will continue to trend Cr.
   -- keep fluid balance even today
   -- if worsens consider renal consult for recs
   .
   # Lactic Acidosis - likely from ischemia [**1-15**] cardiac arrest, improving
   -- trend lactate, improving with volume resuscitation
   .
   # DM - last A1c was 6.1%
   -- fixed and SSI, FSG qid
   .
   # h/o PE: INR was therapeutic in the ED, but pt was reversed with FFP
   in setting of GI bleed.
   -- would hold anticoagulation given GIB possibly causing demand
   ischemia, MI for now but will consider retart tomorrow given recent h/o
   PE.
   .
   # s/p Hip fracture:
   -- previous hardware survey appears intact
   -- pain control
   .
   # ? R hand weakness: Will follow. Upon later exam, pt more awake with
   equal strength. Consider imaging if focal neuro findings.
   .
   # HTN
   -- hold antihypertensives
   -- esmolol drip as above
   .
   # Access
   -- PIV
   -- R radial arterial line
   .
   # FEN
   -- npo for now. Will start TF if will not extubate today
   -- replete lytes prn
   .
   # PPx
   -- IV PPI gtt
   - SC heparin
   -- no bowel regimen needed given GIB
   .
   # Code - Full code confirmed with family, but if pt deteriorates would
   not want life to be prolonged by life support, will reassess after
   extubation.
   .
   # Dispo
   -- ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-11**] 02:47 PM
   18 Gauge - [**2124-9-12**] 08:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-09-14 09:46:00 Physician Attending Progress Note
Chief Complaint: GI bleed arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-9-13**] 02:01 PM
 CHEST PAIN - At [**2124-9-13**] 11:00 PM
   pt c/o CP- called HO- EKG done, improved change- given MS 1.0 mg and 2
   tylenol ( s/p CPR)
   Allergies:
   Aspirin
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-14**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.7
   HR: 55 (53 - 80) bpm
   BP: 171/67(174) {107/51(83) - 174/83(174)} mmHg
   RR: 17 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    838 mL
                                                                    190 mL
   PO:
                                                                    420 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    358 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  1,815 mL
                                                                    480 mL
   Urine:
                                                                  1,815 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -977 mL
                                                                   -290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 552 (258 - 679) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.33/39/82.[**Numeric Identifier 253**]/23/-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Gen: lying in bed, conversant NAD
   CV: RR
   Chest CTA bilat
   Abd: mild LLQ tenderness (less than yesterday
   Ext: no edema
   Neuro: A and O x 2 (year [**22**]) conversant and pleasant
   Labs / Radiology
   11.0 g/dL
   284 K/uL
   118 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.4 mEq/L
   78 mg/dL
   108 mEq/L
   145 mEq/L
   31.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2124-9-12**]  05:06 PM
                             [**2124-9-12**]  06:37 PM
                             [**2124-9-13**]  03:15 AM
                             [**2124-9-13**]  03:40 AM
                             [**2124-9-13**]  09:31 AM
                             [**2124-9-13**]  11:07 AM
                             [**2124-9-13**]  01:32 PM
                             [**2124-9-13**]  04:25 PM
                             [**2124-9-13**]  04:40 PM
                             [**2124-9-14**]  06:03 AM
   WBC
   9.5
   9.7
   Hct
   31.5
   29.6
   32.3
   31.4
   Plt
   243
   284
   Cr
   3.7
   3.6
   3.4
   TropT
   1.02
   1.22
   TCO2
   21
   21
   23
   21
   21
   21
   Glucose
   68
   118
   Other labs: PT / PTT / INR:14.8/31.5/1.3, CK / CKMB /
   Troponin-T:75/9/1.22, ALT / AST:43/31, Alk Phos / T Bili:144/0.9,
   Differential-Neuts:87.2 %, Lymph:6.8 %, Mono:5.4 %, Eos:0.5 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.3 g/dL, LDH:295 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   1.  Cardiac Arrest: likely due to demand ischemic on a background of
   ischemic heart failure. Peri arrest echo shows bivent dysfunction
likely better now- hemodynamics stable. Plavix, Statin. Carvedilol and
   Imdur. Appreciate Cardiology consultation.
   2.  Hypoxemic Resp Failure: resolves s/p extubation now on room air
   3.  GI bleed: stable HCT 29.1 after 5 units (last 48 hrs ago) good
   access, IV PPI, GI aware holding off on scope unless fulminant bleeding
   Big issue will be when to restart anti-coagulation since it is for a
   PE. Will discuss with GI when they would even consider scope (if not
   this admit may need low goal inr or low dose lovenox)
   4.  ARF: improved, keep on home Lasix, trend UOP and CR renally dose
   all meds
   5.   Remaining issues as per housetaff notes
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-9-11**] 02:47 PM D/C
   18 Gauge - [**2124-9-12**] 08:15 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  pt and wife
   [**Name (NI) 156**] status: Full code
   Disposition : call out